US05084083
Preparation of N,N-Dimethyl-5-chloro-2-phenylthiazol-4-yl-acetamide (Compound No. 28 in Table I)
A mixture of 5-chloro-2-phenylthiazol-4-yl-acetic acid (1.98 g, 7.8 mmol), tetramethylsulphurous diamide (1.01 g, 9 mmol) and chloroform (dry, 30 ml) were heated under reflux for 4 hours. The reaction mixture was cooled and was concentrated under reduced pressure. The residue was taken up into chloroform (100 ml) and H2O (50 nl) and an excess of sodium bicarbonate added. After filtration the chloroform layer was washed with dilute HCl, water, dried (MgSO4), filtered and was concentrated under reduced pressure. The product was purified from hot petroleum ether (100°-126° C.) (0.47 g) m.p. 77°-79° C.

reactant | 5-chloro-2-phenylthiazol-4-yl-acetic acid | 7.8 mmol, 1.98 g | ClC1=C(N=C(S1)C1=CC=CC=C1)CC(=O)O | C11H8ClNO2S
reactant | tetramethylsulphurous diamide | 9 mmol, 1.01 g | CN(S(N(C)C)=O)C | C4H12N2OS
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N-Dimethyl-5-chloro-2-phenylthiazol-4-yl-acetamide | CN(C(CC=1N=C(SC1Cl)C1=CC=CC=C1)=O)C | C13H13ClN2OS
